US07582761B2
Cyclohexanecarboxylic acid {2-[(2R)-4-(3-chloro-5-hydroxymethyl-pyridin-2-yl)-2-methyl-piperazin-1-yl]-6-trifluoromethyl-3H-benzoimidazol-4-yl}-amide
{6-[(3R)-4-(7-Amino-5-trifluoromethyl-1H-benzoimidazol-2-yl)-3-methyl-piperazin-1-yl]-5-chloro-pyridin-3-yl}-methanol from (221 mg, 0.5 mmol, Example 175b) and cyclohexanecarboxylic acid (71 mg, 0.55 mmol, Aldrich) reacted under the conditions of Example 65 to give the title compound as a white solid. MS (ESI, pos. ion) m/e: 551 (M+1).

reactant | {6-[(3R)-4-(7-Amino-5-trifluoromethyl-1H-benzoimidazol-2-yl)-3-methyl-piperazin-1-yl]-5-chloro-pyridin-3-yl}-methanol | NC1=CC(=CC2=C1NC(=N2)N2[C@@H](CN(CC2)C2=C(C=C(C=N2)CO)Cl)C)C(F)(F)F | C19H20ClF3N6O
reactant | cyclohexanecarboxylic acid | 0.55 mmol, 71 mg | C1(CCCCC1)C(=O)O | C7H12O2
product | Cyclohexanecarboxylic acid {2-[(2R)-4-(3-chloro-5-hydroxymethyl-pyridin-2-yl)-2-methyl-piperazin-1-yl]-6-trifluoromethyl-3H-benzoimidazol-4-yl}-amide | ClC=1C(=NC=C(C1)CO)N1C[C@H](N(CC1)C=1NC2=C(N1)C=C(C=C2NC(=O)C2CCCCC2)C(F)(F)F)C | C26H30ClF3N6O2
